US04080329
The moist crystals of 2-aminopyridine-1-oxide hydrochloride from Example 1, with or without drying and recrystallization, or the material of Example 2 after purification, can be used in this preparation without substantial difference in the results. A solution of 2-aminopyridine-1-oxide hydrochloride (110 g. dry weight) and 146 g. of concentrated hydrochloric acid (37.5%) in 158 g. of water was cooled to about 0° C and treated dropwise, with stirring, with 51.8 g. of sodium nitrite in 110 g. of water over a period of 1 hour with the temperature being maintained between -5° C and +5° C, to give a clear, orange solution of diazotized material. The orange solution was stirred for about 5 minutes at about 0° C, and was then immediately added by a cooled funnel, over a 40-minute period with stirring, to a hot solution of 110 g. 20% hydrochloric acid with the temperature of the reaction vessel being maintained at 95°-101° C. After 1/3 of the diazotized solution was added, 58.5 g. concentrated hydrochloric acid (37.5%) was poured into the hot reaction mixture. The addition of the remaining 2/3 of diazotized solution was then continued at the same rate and temperature, and stirring was then continued until nitrogen evolution ceased, about 7 minutes. This treatment yielded an aqueous solution of 2-chloropyridine-1-oxide hydrochloride, suitable for use as the solution in Examples 4 and 5. Isolation by vacuum evaporation, extraction from inorganic salts with absolute ethanol and recrystallization from ethanol-toluene gave purified material, m.p. 135°-137° C.

reactant | 2-aminopyridine-1-oxide hydrochloride | 110 g | Cl.NC1=[N+](C=CC=C1)[O-]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-chloropyridine-1-oxide hydrochloride | Cl.ClC1=[N+](C=CC=C1)[O-] | InChI=1S/C5H4ClNO.ClH/c6-5-3-1-2-4-7(5)8;/h1-4H;1H
